US06579883B1
A solution of 0.31 g (1.24 mmol) of 3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one-7-carboxylic acid in 35 ml of THF is treated with 0.20 ml (1.44 mmol) of triethylamine and 0.14 ml (1.44 mmol) of ethyl chloroformate. After 10 minutes at room temperature, 0.14 g (3.72 mmol) of sodium borohydride and, within 15 minutes, 19 ml of methanol, are added to it. After 15 hours, the batch is diluted with ethyl acetate, washed with 20% citric acid, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography with hexane-ethyl acetate yields 3a-fluoro-7-hydroxymethyl-1,2,3,3a,5,9b-hexahydrocyclo-penta[c]quinolin-4-one, which dissolves in 50 ml of THF and is mixed at 0° C. with 4 portions each of 0.34 ml (2.5 mmol) of triethylamine and 0.19 ml (2.5 mmol) of methanesulfonyl chloride. After the reaction has been completed, the batch is poured onto ice water and extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and concentrated by evaporation in a vacuum. The residue is taken up in 50 ml of 2 M methanolic methylamine solution and refluxed for 4 hours. The volatile components are removed in a vacuum, and the residue is dissolved in 50 ml of dichloromethane. 0.81 g (3.72 mmol) of pyrocarbonic acid-di-tert-butylester is added to it, and after 3 hours, another 0.40 g (1.86 mmol) is added to it. After 2 hours, the batch is diluted with dichloromethane, washed with water, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography with hexane-ethyl acetate yields 49 mg of product.

reactant | 3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one-7-carboxylic acid | 1.24 mmol, 0.31 g | FC12C(NC=3C=C(C=CC3C1CCC2)C(=O)O)=O | C13H12FNO3
reactant | triethylamine | 1.44 mmol, 0.20 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.44 mmol, 0.14 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 3.72 mmol, 0.14 g | [BH4-].[Na+]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 19 ml | CO | CH4O
product | 3a-fluoro-7-hydroxymethyl-1,2,3,3a,5,9b-hexahydrocyclo-penta[c]quinolin-4-one | FC12C(NC=3C=C(C=CC3C1CCC2)CO)=O | C13H14FNO2
